US08426420B2
v) 4-[(S)-4-Carboxy-2-({5-[2-(3-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 200 mg 4-[(S)-4-tert-butoxycarbonyl-2-({5-[2-(3-carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester in 5 ml DMF were added 48 μl DIPEA, 11 mg HATU and 20 μl cyclopropylamine. After stirring for 12 h saturated aqueous NaHCO3 solution was added and the mixture loaded on a Chem Elut® cartridge, the crude product being eluted with dichloromethane. The solution was concentrated to a volume of 5 ml and stirred in the presence of 324 μl TFA. After stirring for 14 h the solvents were removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 30 mg MS (ES+): m/e=668.

reactant | 4-[(S)-4-tert-butoxycarbonyl-2-({5-[2-(3-carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1CC(CC1)C(=O)O)C1=CC=CC=C1)=O | C33H44N6O10
reactant | DIPEA | 48 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 11 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopropylamine | 20 μl | C1(CC1)N | C3H7N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[(S)-4-Carboxy-2-({5-[2-(3-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1CC(CC1)C(NC1CC1)=O)C1=CC=CC=C1)=O | C32H41N7O9
